US04096331
N-(4-Methoxyphenyl)-3-(2-morpholinoethoxy)-1-pyrrolidine-carboxamide
Under anhydrous conditions 2.2 g. p-methoxyphenyl isocyanate in 10 ml. of reagent grade benzene was added dropwise to a stirring solution of 3.0 g. (0.15 mole) of 3-(2-morpholinoethoxy) pyrrolidine in 40 ml. of reagent grade benzene. After the addition was complete the reaction mixture was stirred overnight at room temperature and then concentrated at reduced pressure to give the theoretical yield of crude product, which would not crystallize nor form addition salts. The crude product was chromatographed on a column of magnesium silicate to give 1.4 g. of oily product. The nuclear magnetic resonance spectrum and mass spectrum analysis agreed with the proposed structure.

reactant | p-methoxyphenyl isocyanate | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | 3-(2-morpholinoethoxy) pyrrolidine | 0.15 mole | O1CCN(CC1)CCOC1CNCC1 | C10H20N2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(4-Methoxyphenyl)-3-(2-morpholinoethoxy)-1-pyrrolidine-carboxamide | COC1=CC=C(C=C1)NC(=O)N1CC(CC1)OCCN1CCOCC1 | C18H27N3O4
